US05068458
A mixture of 2-bromomethyl-6-methoxynaphthalene (12.68 g), hexamine (14 g), glacial acetic acid (21 ml) and water (21 ml) were heated under reflux with stirring for 30 minutes. Concentrated hydrochloric acid (16.6 ml) was then added and the mixture stirred and refluxed for a further 15 minutes. The reaction was cooled to room temperature and extracted with toluene (2×25 ml). The combined toluene extracts were washed with water (2×10 ml), saturated sodium bicarbonate solution (2×10 ml) and water (1×8 ml) and the toluene solution dried over MgSO4. The drying agent was filtered off and the solvent was removed by distillation under vacuum. This afforded 8.6 g of crude product which was recrystallised twice from isopropanol (2×50 ml) to give 6.07 g of 97.8% purity 2-methoxynaphthaldehyde as a light beige solid. The material had a melting point of 79.2° C.

reactant | 2-bromomethyl-6-methoxynaphthalene | 12.68 g | BrCC1=CC2=CC=C(C=C2C=C1)OC | C12H11BrO
reactant | hexamine | 14 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 21 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 16.6 ml | Cl | ClH
solvent | water | 21 ml | O | H2O
product | 2-methoxynaphthaldehyde | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
